US07498337B2
tert-butyl ({5-[2-(hydroxymethyl)phenyl]-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl}methyl)methylcarbamate
tert-Butyl {[5-(2-formylphenyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate (218 mg) was dissolved in tetrahydrofuran (2 mL), and sodium borohydride (24 mg) and methanol (1 mL) were added at 0° C. After stirring at the same temperature for 30 min, water was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=1:1→1:3) to give the title compound as a colorless oil (yield 132 mg, 60%).

reactant | tert-Butyl {[5-(2-formylphenyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate | 218 mg | C(=O)C1=C(C=CC=C1)C1=CC(=CN1S(=O)(=O)C=1C=NC=CC1)CN(C(OC(C)(C)C)=O)C | C23H25N3O5S
reactant | sodium borohydride | 24 mg | [BH4-].[Na+]
reactant | methanol | 1 mL | CO | CH4O
reactant | water | O | H2O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | tert-butyl ({5-[2-(hydroxymethyl)phenyl]-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl}methyl)methylcarbamate | yield 132 mg, 60% | OCC1=C(C=CC=C1)C1=CC(=CN1S(=O)(=O)C=1C=NC=CC1)CN(C(OC(C)(C)C)=O)C | C23H27N3O5S
